Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Codeine / Latex
 
Attending: ___.
 
Chief Complaint:
Fever (99.8), weakness
 
Major Surgical or Invasive Procedure:
Hemodialysis (___)
 
History of Present Illness:
Mr. ___ is a ___ year old man with CKD V on HD, dilated 
cardiomyopathy, and prior epidural/paraspinal abscess requiring 
multiple surgeries who was brought in from rehab due to concerns 
for low-grade temperatures and possible lethargy. The patient 
denies any symptoms of lethargy, disorientation, or confusion, 
and he denies feeling febrile or chilled. He reports he was 
tired the day prior to admission after a 5 hour ___ 
shopping trip. By report, he was observed to be somewhat 
disoriented and had a temperature of 99.8 at rehab. Of note, he 
reports that his G-tube spontaneously fell out several days ago; 
since this time, he feels as though his diarrhea (which he had 
been frequently having, and which he attributed to his tube 
feeds) has improved; he refused replacement of the G-tube 
initially, but today reports that may be willing if there is a 
way to prevent the diarrhea associated with tubefeeds. Of note, 
he denies pain or discharge from the G-tube site. He denies 
cough, dyspnea, ulcerations, headaches, abdominal pain, skin 
rashes.  
.  
Upon arrival to the ___ ED, he had a temperature of 96.7, BP 
120/92, HR 122, RR 24, Sat 99% on 4 L/min. He was noted to have 
a rectal temperature of 99.8. He was weaned to 2 L/min of oxygen 
with sat's in the high ___. Chest radiograph showed bilateral 
pleural effusions with no clear infiltrate. He was given 1000 mg 
of IV vancomycin and 250 mg of IV levofloxacin as well as normal 
saline at 100 cc/hr.  
.  
ROS:  
Denies fevers, chills, rigors, abdominal pain, headaches, visual 
changes, chest pain, dyspnea. Reports numbness in his feet.  

 
Past Medical History:
-ESRD of unknown etiology: s/p HD fistula RUE, on HD MWF  
-Anemia ___ esrd  
-CAD with positive stress test ___  
-Systolic CHF - EF 20% from ___ TTE; RV systolic 
dysfunction/global free wall hypokinesis; 1+MR; "significant" 
PR.  
-HTN  
-Psoriasis  
-L3 burst fracture w/ neurologic compromise and retropulsion 
onto cauda L2-L4  
-Status post anterior-posterior spinal fusion of ___ 
 
-MSSA L2-L3 osteo/epidural abscess  
-MSSA Paraspinal abscess  
-Enterobacter wound infection on back ___  
-Hx of MSSA bacteremia - ___  
-Hypothyroid  
-H/o sacral decub & groin ulcer  
-Restless leg syndrome  
-H/o abdominal fluid collection drained s/p anterior spinal  
fusion
 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
T 97.8; BP ___ HR 106-108; RR ___ Sat 100% 2L NC 
(while in room, O2 stopped and patient satting 97% RA)  
Weight: 58.5 kg  
General: Cachectic; no distress; comfortable  
Skin: Approx 2 cm stage I coccygeal ulcer; lower extremities 
(below shins) bilaterally with erythema and cool to touch  
HEENT: Oropharynx clear; no scleral icterus  
Pulm: Clear to auscultation throughout without wheezes, rales, 
or ronchi  
CV: RRR, normal s1s2, I/VI SEM at LLSB  
Back: No spinal/paraspinal tenderness  
Abdomen: Soft, nontender, nondistended, normal bowel sounds, no 
HSM/masses; former G-tube site with minimal erythema, no 
expressable drainage, and nontender to touch; no induration or 
fluctuance  
Extremities: Right AV fistula with palpable thrill; radial and 
DP pulses 2+; lower extremities (distal to shin) cool to touch  
Neuro: Alert, oriented x3; CN ___ intact; strength ___ in 
bilateral upper and lower extremities
 
Pertinent Results:
ADMISSION LABORATORY DATA:
___ 07:39PM   WBC-11.9* RBC-3.73*# HGB-9.4* HCT-32.5* 
MCV-87# MCH-25.1*# MCHC-28.9*# RDW-20.2*
___ 07:39PM   NEUTS-75* BANDS-7* LYMPHS-8* MONOS-5 EOS-2 
BASOS-2 ___ MYELOS-0 OTHER-1*
___ 07:39PM   GLUCOSE-93 UREA N-32* CREAT-4.1* SODIUM-140 
POTASSIUM-5.3* CHLORIDE-98 TOTAL CO2-27 ANION GAP-20
___ 07:58PM   LACTATE-2.9*
.
CXR ___ - FINDINGS: 
There are large bibasal effusions present along with atelectasis 
at the lung bases. The heart is enlarged, unchanged from the 
prior examination. There is stable appearance to the spinal 
fixators in the upper lumbar spine. CONCLUSION: Cardiomegaly 
along with large bibasal effusions and atelectasis at the lung 
bases. Increased retrocardiac opacity likely atelectasis. 
Followup post- diuresis is recommended. 
.
EKG: Sinus tachycardia. Low limb lead voltage. Consider left 
ventricular 
hypertrophy by voltage in the precordial leads. ST-T wave 
abnormalities. 
Since the previous tracing of ___ the rate is faster. QRS 
voltage is more promient. ST-T wave abnormalities are more 
prominent.
.
DISCHARGE LABORATORY DATA:
___ 06:20AM BLOOD WBC-7.1 RBC-3.44* Hgb-8.7* Hct-29.6* 
MCV-86 MCH-25.3* MCHC-29.4* RDW-20.2* Plt ___
___:50AM BLOOD Neuts-79* Bands-0 Lymphs-11* Monos-9 
Eos-0 Baso-1 ___ Myelos-0
___ 06:20AM BLOOD Glucose-77 UreaN-21* Creat-3.0*# Na-143 
K-3.9 Cl-99 HCO3-35*
 
Brief Hospital Course:
___ year old male with CKD Stage V on HD, prior epidural abscess, 
and recently accidently removed G tube admitted from rehab 
facility with concern for lethargy, low-grade temperatures, and 
bandemia. Brief hospital course was as follows:

1. Bandemia/?lethargy:  Throughout hospital course patient 
emphasized feeling very well. He was tired day prior to 
admission after a prolonged shopping trip, but has otherwise had 
no weakness above baseline. Left shift on admission was 
concerning for evolving infection; WBC count since coming down 
with resolved bandemia. Suspected sources for possible infection 
included infection at former PEG tube site, bacteremia, or 
pneumonia given increased oxygen requirement at presentation. No 
evidence of abscess or skin infection at former PEG tube site. 
No growth from blood cultures to date (drawn before antibiotics 
initiated). No infiltrates that would be consistent with 
pneumonia seen on chest radiograph. No increase in diarrhea 
(patient with history of C. difficile). Patient received one 
dose of levofloxacin in emergency department. Patient was 
continued on empiric vancomycin per HD protocol - on day of 
discharge random vancomycin level 20. Patient not to be 
continued on antibiotics as outpatient. If he has fevers, 
becomes more lethargic, or has increased erythema concerning for 
cellulitis at lower extremities, patient may need to be started 
on vancomycin IV once again. On discharge, feeling well, with 
normal WBC count, afebrile, and not requiring oxygen 
supplementation.

2. History of C difficile infection: We spoke to facility on 
admission; patient on vancomycin long-term given reoccurrence 
when off of vancomycin in the past. Patient was continued on 
vancomycin PO daily. No evidence of diarrhea/active infection at 
this admission.

3. ESRD, Stage 5: Patient is anuric. Continued on home regimen 
of ___ dialysis. Continued on appropriate renal 
medications.

4. Elevated troponin: Elevated on admission but in range similar 
to that in previous admissions. Likely related to renal failure. 
Patient without symptoms concerning for ACS, and no concerning 
changes seen on EKG on admission. No concerning arrythmias were 
noted on telemetry.

5. Hypoxia, now resolved: On presentation required oxygen (99% 
on 4 L/min) and was noted to have bilateral pleural effusions. 
Hypoxia was likely secondary to fluid overload on admission, and 
improved following dialysis. On discharge, patient is satting 
well on room air.

6. Chronic systolic heart failure: Noted to be fluid overloaded 
on exam on admission. Patient was continued on home regimen 
including beta-blocker; ACE inhibitor was temoporarily held 
given hyperkalemia, but restarted on discharge. Patient should 
have electrolytes rechecked in ___ days.

7. Cachexia: Chronic by review of patient records. Patient 
reported he would be willing to have G tube replaced but only as 
an outpatient. Appointment scheduled for ___ at 
7:00am. Patient is to be off of aspirin for one week prior to 
procedure, and should be NPO after midnight morning of 
procedure.

8. ?Peripheral vascular disease: Patient with cool lower 
extremities on admission, concerning for PVD. Patient should 
have ABI studies done to assess for PVD if not done within past 
6 months.
 
Medications on Admission:
- hydromorphone 2 mg PO q4h prn leg pain  
- levothyroxine 125 mcg daily  
- nephrocaps  
- pancrealipase two tablets tid with meals  
- sevelamer 1600 mg tid with meals  
- gabapentin 200 mg qam, 100 mg qhs  
- ropinirole 0.25 mg qhs  
- omeprazole 20 mg daily  
- docusate 100 mg daily  
- aspirin 325 mg daily  
- erythropoeitin ___ units TIW at dialysis  
- lisinopril 5 mg daily  
- Questran 4 grams daily  
- metoprolol tartrate 37.5 mg tid  
- vancomycin 125 mg PO daily (? undergoing taper)  
- Vitamin B complex  
- Vitamin C  
- Heparin with dialysis  
- Ambien 5mg PO QHS prn insomnia  
- Lorazepam 1mg PO Q6 hours prn anxiety  

 
Discharge Medications:
1. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for leg pain.  
2. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
4. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
5. Sevelamer HCl 800 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
6. Ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
7. Gabapentin 100 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).  
8. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
10. Colace 100 mg Capsule Sig: One (1) Capsule PO once a day.  
11. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Please hold for 7 days prior to G tube placement.  
12. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Cholestyramine-Sucrose 4 gram Packet Sig: One (1) Packet PO 
DAILY (Daily).  
14. Metoprolol Tartrate 25 mg Tablet Sig: 1.5 Tablets PO TID (3 
times a day).  
15. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
16. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
17. Ascorbic Acid ___ mg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
18. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for Insomnia.  
19. Epoetin Alfa 2,000 unit/mL Solution Sig: One (1)  Injection 
at dialysis.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Weakness, now resolved
- Chronic renal failure, stage 5 on hemodialysis
- Cachexia/malnutrition

Secondary:
- Likely peripheral vascular disease
- History of C difficile infection
- Chronic systolic heart failure

 
Discharge Condition:
Hemodynamically stable.

 
Discharge Instructions:
You were admitted on ___ because of a concern for 
weakness and for a low-grade fever. In the emergency department, 
you were started on antibiotics and these were continued during 
your hospital stay. You were not found to have any clear source 
of infection, and you did not have a fever or evidence of an 
active infection based on your bloodwork. You were also 
continued on your normal dialysis regimen and did very well.

You will have your G tube replaced on ___. Please 
arrive at the ___ day care ___ at 
7:00am. Please do not eat or drink anything after midnight. You 
must also stop taking aspirin on ___.

Your medical care will now be assumed by the facility to which 
you are going.

Please call your physician (either at the facility or your 
primary care physician) if you have any fevers, rashes, severe 
weakness, or for any other concerns.
 
Followup Instructions:
___